USRE028939
To a mixture of 18.6 g. of 2-cyano-5-trifluoromethylaniline and 120 ml. of concentrated hydrochloric acid is added dropwise 8.0 g. of sodium nitrite in aqueous solution. The resulting diazo solution is added dropwise to 152 g. of stannous chloride in concentrated hydrochloric acid at 0° C. After allowing the mixture to stand for several hours at 0° C., it is filtered. The solid is treated with boiling water and the solution is made alkaline. The precipitate is recrystallized from benzene to give 3-amino-6-trifluoromethylindazole, M.P. 168°-169° C.

reactant | 2-cyano-5-trifluoromethylaniline | C(#N)C1=C(N)C=C(C=C1)C(F)(F)F | C8H5F3N2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | hydrochloric acid | Cl | ClH
product | 3-amino-6-trifluoromethylindazole | NC1=NNC2=CC(=CC=C12)C(F)(F)F | C8H6F3N3
